* baseline strain direction
        .include bsim3_nmos.subckt

        Valp alpha 0 dc 0.0
        Veps eps_s 0 dc 0.005
        Vdd d 0 dc 1.0
Vgs g 0 dc 0.75
Vss s 0 dc 0.0
Vbb b 0 dc 0.0


        Xdev d g s b bsim3_nmos W=10u L=180n

        .dc Valp 0.0 1.5707963267948966 0.09817477042468103
        .print dc v(eps_s) v(alpha) i(Vdd)
        .end
